US04639442
Step 4. 1-Allyl-5-(3-aminopropoxy)-1-(1-piperidinylmethyl)benzocyclobutene
A solution of 1-allyl-5-(3-azidopropoxy)1-(1-piperidinylcarbonyl)benzocyclobutene (19.5 g) in THF (200 ml) is added dropwise to a stirred suspension of LAH (5.26 g) in THF (82 ml) under nitrogen. The reaction mixture is refluxed for one hour, quenched with water, 15% aqueous NaOH and water, filtered and evaporated in vacuo affording an oil which is chromatographed (silica gel: 5% triethylamine/methanol) affording the desired product as an oil.

reactant | 1-allyl-5-(3-azidopropoxy)1-(1-piperidinylcarbonyl)benzocyclobutene | 19.5 g | C(C=C)C1(CC=2C1=CC(=CC2)OCCCN=[N+]=[N-])C(=O)N2CCCCC2 | C20H26N4O2
reactant | LAH | 5.26 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 82 ml | C1CCOC1 | C4H8O
product | 1-Allyl-5-(3-aminopropoxy)-1-(1-piperidinylmethyl)benzocyclobutene | C(C=C)C1(CC=2C1=CC(=CC2)OCCCN)CN2CCCCC2 | C20H30N2O
